2140-06-19 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2140-6-18**] 08:15 AM
 ULTRASOUND - At [**2140-6-18**] 10:40 AM
   abdominal and LENIS
 ENDOSCOPY - At [**2140-6-18**] 11:00 AM
 BLOOD CULTURED - At [**2140-6-18**] 12:15 PM
 INVASIVE VENTILATION - START [**2140-6-18**] 11:21 PM
 ARTERIAL LINE - START [**2140-6-19**] 12:08 AM
   - Endoscopy by GI showed portal gastropathy, grade I varices
   - Lasix 20 mg IV x 2 c/ signficant urine output
   - ceftriaxone, flagyl, vanco
   - CT chest
   - 1 u pRBCs for crit 23.3-> 22.8-> 20.0
   - worsening CXR
   - levaquin added
   - respiratory distress, given lasix 20 mg x 2 with good UOP
   - intubated
   - a line placed
   - given 2 u FFP
   - repeat unit pRBCs given for persistent low crit
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-6-18**] 11:45 AM
   Vancomycin - [**2140-6-18**] 07:28 PM
   Levofloxacin - [**2140-6-18**] 11:00 PM
   Metronidazole - [**2140-6-19**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-6-18**] 09:00 AM
   Midazolam (Versed) - [**2140-6-18**] 11:00 AM
   Fentanyl - [**2140-6-19**] 12:34 AM
   Furosemide (Lasix) - [**2140-6-19**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-19**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 86 (85 - 128) bpm
   BP: 121/58(76) {110/47(67) - 126/60(186)} mmHg
   RR: 22 (10 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.5 kg (admission): 98.2 kg
           Total In:
                                                                  5,066 mL
                                                                  1,815 mL
   PO:
                                                                    840 mL
           TF:
   IVF:
                                                                  1,704 mL
                                                                    730 mL
   Blood products:
                                                                  2,522 mL
                                                                    935 mL
   Total out:
                                                                  3,281 mL
                                                                  1,485 mL
   Urine:
                                                                  3,221 mL
                                                                  1,485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,785 mL
                                                                    330 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 451 (401 - 451) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   PIP: 34 cmH2O
   SpO2: 100%
   ABG: 7.46/39/170/25/4
   Ve: 9.6 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General: chronically ill appearing, jaundiced, intubated
   HEENT: icteric sclera, dry MM, ETT in place
   Neck: supple, JVP not elevated
   Lungs: Decreased breath sounds left lower and right upper lung fields,
   + crackles
   CV: Regular rate and rhythm, normal S1 + S2, 2/6 systolic murmur
   throughout the precordium
   Abdomen: distended
   Rectal: brown guaiac positive stool
   Ext: 3+ LE edema with signs of chronic venous stasis bilaterally
   Neuro: sedated,  +asterixis
   Labs / Radiology
   97 K/uL
   7.2 g/dL
   117 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.4 mEq/L
   27 mg/dL
   105 mEq/L
   138 mEq/L
   20.2 %
   9.7 K/uL
        [image002.jpg]
                             [**2140-6-18**]  11:54 AM
                             [**2140-6-18**]  03:55 PM
                             [**2140-6-18**]  08:10 PM
                             [**2140-6-18**]  10:58 PM
                             [**2140-6-19**]  02:41 AM
                             [**2140-6-19**]  03:35 AM
   WBC
   9.7
   Hct
   23.3
   22.8
   20.0
   20.2
   Plt
   97
   Cr
   1.2
   1.0
   1.1
   TCO2
   26
   29
   Glucose
   140
   117
   Other labs: PT / PTT / INR:30.6/55.6/3.1, CK / CKMB / Troponin-T:867//,
   Lactic Acid:1.7 mmol/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 38 year old man with presumed EtOH
   cirrhosis who presents after being found down at home with altered
   mental status and now found to have SBP.
   # Respiratory failure. Concern for pneumonia vs.  fluid overload vs
   ascites. Also would consider TRALI as received multiple blood products.
   Likely a combination of these etiologies. Overnight respiratory status
   worsened. CXR showed worsening R lung infiltrates vs. edema. Levaquin
   added to cover for atypicals. Given 20 mg lasix x 2 with large urine
   output, but continued respiratory distress. Intubated for persistently
   increased work of breathing.
   - Wean FiO2 as tolerated
   - daily CXR
   - diuresis with goal 1-2 L net negative today
   - on vancomycin, ceftriaxone, levaquin, and flagyl for pneumonia
   coverage
   -sputum cxs
   - consider discussing with IP diagnostic thoracentesis of left pleural
   effusion
   .
   # Acute blood loss anemia: Pt's hematocrit was 15 at the OSH and 17 on
   arrival to the ED here. He has received one unit RBC at the OSH and one
   unit in the ED. Unknown baseline. No history of frank hematemesis of
   BRBPR but was guaiac positive in the ED. EGD showed grade one varices
   and portal gastropathy. Received total 4 units RBCs and 4 units in ICU
   yesterday, crit currently 20.9.
   - continue to monitor crits and transfuse as needed
   - transfuse FFP for active bleeding
   - iron studies consistent with anemia of chronic disease
   - if continued bleeding consider GI c/s for repeat scope
   .
   # Hypotension: Differential includes evolving sepsis for peritoneal
   infection +/- possible pneumonia, hypovolemia, blood loss. Pressures
   stable in setting of receiving 8 units of blood products.
   - continue multiple peripheral IVs, low threshold for central line
   placement
   - continue antibiotics for SBP, pneumonia
   - f/u cx
   - IVF bolus for MAP<65 or UOP<30
   .
   # Altered mental status: Likely encephalopathy in the setting of
   infection. Head CT negative at OSH. No history of encephalopathy.
   - ceftriaxone
   - albumin 1.5g/kg now and 1g/kg on day 3
   - lactulose 30ml PO TID, titrate to [**5-22**] BM daily
   .
   # Leukocytosis: Pt with WBC of 14.1 with left shift on presentation,
   now 9.7.  Afebrile. Peritoneal fluid is consistent with SBP. Worsening
   CXR concerning for multifocal pneumonia. Blood cx pending. Negative UA,
   urine cx pending. Lactate 2.6 on presentation. Hemodynamically stable.
   - ceftriaxone as above
   - flagyl for aspiration coverage, levaquin for atypicals
   - continue vanco
   - cxr
   - cont to monitor WBC
   - f/u blood cx, urine cx
   .
   # Cirrhosis: Per pt's father, he has been worked up at [**Hospital1 5729**] and his liver disease is felt to be [**3-21**] EtOH.
   - RUQ u/s showed cirrhosis, moderate ascites, patent vessels,
   gallbladder sludge.
   - AFP 2.8
   - hepatitis panel pending
   - lactulose
   - consider therapeutic paracentesis
   .
   # EtOH abuse: Pt is still actively drinking.
   - cover with CIWA scale
   - social work consult once stable
   .
   # FEN: blood products for resuscitation, replete electrolytes prn, NPO
   .
   # Prophylaxis: pneumoboots, IV PPI, lactulose
   .
   # Access: multiple pIV
   .
   # Code: full
   .
   # Communication: [**Name (NI) **] father [**Name (NI) **] [**Name (NI) **] [**Name (NI) 2381**]
   - home [**Telephone/Fax (1) 5730**], cell [**Telephone/Fax (1) 5731**]
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2140-6-18**] 09:30 AM
   18 Gauge - [**2140-6-19**] 12:00 AM
   Arterial Line - [**2140-6-19**] 12:08 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: parents
   Code status: Full code
   Disposition:ICU

2140-06-19 08:27:00 Physician Attending Progress Note
Chief Complaint: cirrhosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   last evening after blood and FFP increased resp distress, exam
   consistent with pulm edema, tried lasix with fair effect - but ended up
   needing intubation for work of breathing.
   HCT 23 back down to 20
 old melena, no active bleeding and BPs stable
   24 Hour Events:
 URINE CULTURE - At [**2140-6-18**] 08:15 AM
 ULTRASOUND - At [**2140-6-18**] 10:40 AM
   abdominal and LENIS
 ENDOSCOPY - At [**2140-6-18**] 11:00 AM - portal gastropathy grade I
   varices, no active bleeding
 BLOOD CULTURED - At [**2140-6-18**] 12:15 PM
 INVASIVE VENTILATION - START [**2140-6-18**] 11:21 PM
 ARTERIAL LINE - START [**2140-6-19**] 12:08 AM
   CT showed lareg left pl effusions and extensive bilat GGO but most
   impressive in RUL
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-6-18**] 11:45 AM
   Vancomycin - [**2140-6-18**] 07:28 PM
   Levofloxacin - [**2140-6-18**] 11:00 PM
   Metronidazole - [**2140-6-19**] 08:20 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2140-6-18**] 11:00 AM
   Fentanyl - [**2140-6-19**] 12:34 AM
   Furosemide (Lasix) - [**2140-6-19**] 06:12 AM
   Pantoprazole (Protonix) - [**2140-6-19**] 08:20 AM
   Other medications:
   Lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-19**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 88 (85 - 126) bpm
   BP: 120/59(78) {110/47(67) - 126/60(186)} mmHg
   RR: 24 (10 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.5 kg (admission): 98.2 kg
           Total In:
                                                                  5,066 mL
                                                                  1,873 mL
   PO:
                                                                    840 mL
           TF:
   IVF:
                                                                  1,704 mL
                                                                    763 mL
   Blood products:
                                                                  2,522 mL
                                                                    960 mL
   Total out:
                                                                  3,281 mL
                                                                  1,485 mL
   Urine:
                                                                  3,221 mL
                                                                  1,485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,785 mL
                                                                    388 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (401 - 451) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.46/39/170/25/4
   Ve: 9.4 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Gen : intubated and sedated
   HEENT: icteric , pinpoint reactive pupils
   CV: RR
   Chest: rales on back, decreased lgreater than right base
   Abd: distended fluid wave
   Ext: anasarca
   Labs / Radiology
   7.6 g/dL
   87 K/uL
   97 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.1 mEq/L
   26 mg/dL
   105 mEq/L
   141 mEq/L
   20.9 %
   8.9 K/uL
        [image002.jpg]
                             [**2140-6-18**]  11:54 AM
                             [**2140-6-18**]  03:55 PM
                             [**2140-6-18**]  08:10 PM
                             [**2140-6-18**]  10:58 PM
                             [**2140-6-19**]  02:41 AM
                             [**2140-6-19**]  03:35 AM
                             [**2140-6-19**]  06:17 AM
   WBC
   9.7
   8.9
   Hct
   23.3
   22.8
   20.0
   20.2
   20.9
   Plt
   97
   87
   Cr
   1.2
   1.0
   1.1
   1.1
   TCO2
   26
   29
   Glucose
   140
   117
   97
   Other labs: PT / PTT / INR:26.5/52.1/2.6, CK / CKMB / Troponin-T:867//,
   Lactic Acid:1.7 mmol/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HEPATIC ENCEPHALOPATHY
 ANEMIA, CHRONIC
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   1.       Resp Failure: last evening in the setting of volume and
   plasma/RBCs/albumin
 DDX pulmonary edema, TRALI, ARDS, evolving asp or
   CAP.  Volume overload seems most likely with clinical evolution. At
   this point we will wean FIO2, try for convert to PSV. Goal get 1 L
   negative as BP allows
   In terms of GGO- again blood and infection due to Cap or asp most
   likely. Sputum cx pending but bland gram stain.
   Favor broad spectrum ABX
 low threshold to bronch if worsens but yield
   likely low this long into ABX.
   In terms of his left pleural eff- heo hydrothorax versus parapneumonic
   - we could try for diagnostic if we coordinate with large volume para
   and FFP. Will discuss with IP for today/tommorow
   2.       Anemia: Initial HCT 15, bumped to 23 after 4 U RBC but back
   down to 23 in setting of resuscitation. EGD without active bleeding but
   likely still oozing. Iron studies anemia of chronic disease. Tx to
   maintain HCT 23-25.
   3.       Liver Failure: severe
 repeat LFTS pending. Albumin 1.5gm/kg
   yesterday . RUQ patent vessels mod ascites. Given decompensation
   yesterday Liver team would like to hold off on large volume para until
   AM- and it is not needed for resp status. Will check bladder pressure
   meanwhile.
   SBP: On broad spectru, cultires pending. Para in AM.
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: start TFs
   Glycemic Control: prn
   Lines:
   16 Gauge - [**2140-6-18**] 09:30 AM
   18 Gauge - [**2140-6-19**] 12:00 AM
   Arterial Line - [**2140-6-19**] 12:08 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  family updated yesterday but will try for family
   meeting today :
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2140-06-20 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2140-6-19**] 02:49 PM
   -Peritoneal fluid growing GNRs
   -fibrinogen 99 -> 92
   -got lasix 20mg IV x2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-6-19**] 10:51 AM
   Vancomycin - [**2140-6-19**] 07:31 PM
   Levofloxacin - [**2140-6-19**] 09:34 PM
   Metronidazole - [**2140-6-20**] 12:42 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2140-6-19**] 04:30 PM
   Fentanyl - [**2140-6-19**] 04:30 PM
   Pantoprazole (Protonix) - [**2140-6-19**] 07:32 PM
   Furosemide (Lasix) - [**2140-6-19**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-20**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 96 (88 - 109) bpm
   BP: 119/51(73) {98/44(64) - 144/71(92)} mmHg
   RR: 24 (8 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.5 kg (admission): 98.2 kg
   Height: 69 Inch
    Bladder pressure: 20 (20 - 20) mmHg
   Total In:
                                                                  4,096 mL
                                                                    383 mL
   PO:
   TF:
                                                                     56 mL
                                                                    176 mL
   IVF:
                                                                  1,810 mL
                                                                    206 mL
   Blood products:
                                                                    960 mL
   Total out:
                                                                  3,755 mL
                                                                    880 mL
   Urine:
                                                                  3,755 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    341 mL
                                                                   -497 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 451 (450 - 451) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.47/41/103/30/5
   Ve: 10.5 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General: chronically ill appearing, jaundiced, intubated
   HEENT: icteric sclera, dry MM, ETT in place
   Neck: supple, JVP not elevated
   Lungs: Decreased breath sounds left lower and right upper lung fields,
   + crackles
   CV: Regular rate and rhythm, normal S1 + S2, 2/6 SEM
   Abdomen: distended
   Rectal: brown guaiac positive stool
   Ext: 3+ LE edema with signs of chronic venous stasis
   Neuro: sedated,  +asterixis
   Labs / Radiology
   69 K/uL
   8.3 g/dL
   91 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.5 mEq/L
   24 mg/dL
   108 mEq/L
   142 mEq/L
   22.9 %
   10.8 K/uL
        [image002.jpg]
                             [**2140-6-19**]  02:41 AM
                             [**2140-6-19**]  03:35 AM
                             [**2140-6-19**]  06:17 AM
                             [**2140-6-19**]  09:14 AM
                             [**2140-6-19**]  09:29 AM
                             [**2140-6-19**]  03:00 PM
                             [**2140-6-19**]  03:11 PM
                             [**2140-6-20**]  12:52 AM
                             [**2140-6-20**]  05:01 AM
                             [**2140-6-20**]  05:22 AM
   WBC
   9.7
   8.9
   10.8
   Hct
   20.2
   20.9
   22.2
   23.7
   22.2
   22.9
   Plt
   97
   87
   69
   Cr
   1.1
   1.1
   1.0
   1.0
   TCO2
   29
   28
   30
   31
   Glucose
   117
   97
   106
   91
   Other labs: PT / PTT / INR:30.1/150.0/3.1, CK / CKMB /
   Troponin-T:867//, ALT / AST:26/83, Alk Phos / T Bili:34/15.9,
   Fibrinogen:92 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL, LDH:356
   IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 38 year old man with presumed EtOH
   cirrhosis who presents after being found down at home with altered
   mental status and now found to have SBP.
   # Respiratory failure. Concern for pneumonia vs.  fluid overload vs
   ascites. Also would consider TRALI as received multiple blood products.
   Likely a combination of these etiologies. Intubated [**6-18**] after CXR
   showed worsening R lung infiltrates vs. edema. Levaquin added to cover
   for atypicals. Treated with 20 mg IV lasix intermittently with good
   diuresis.
   - Wean FiO2 as tolerated
   - ARDSnet tidal volumes, increase PEEP to 15
   - daily CXR
   - diuresis with goal 1 L negative
   - on ceftriaxone, levaquin, and flagyl for pneumonia coverage, will d/c
   vancomycin as sputum cx shows no growth
   - f/u sputum cx
   .
   # Acute blood loss anemia: Pt's hematocrit was 15 at the OSH and 17 on
   arrival to the ED here. He has received one unit RBC at the OSH and one
   unit in the ED. Unknown baseline. No history of frank hematemesis of
   BRBPR but was guaiac positive in the ED. EGD showed grade one varices
   and portal gastropathy. Received total 4 units RBCs and 4 units FFP in
   ICU [**6-18**], crit stable at 22.9.
   - continue to monitor crits and transfuse as needed
   - transfuse FFP for active bleeding
   - iron studies consistent with anemia of chronic disease
   - if continued bleeding consider GI c/s for repeat scope
   .
   # Hypotension: Differential includes evolving sepsis for peritoneal
   infection +/- possible pneumonia, hypovolemia, blood loss. Pressures
   stable since admission.
   - continue multiple peripheral IVs
   - PICC in IR today
   - continue antibiotics for SBP, pneumonia
   - f/u cx
   - IVF bolus for MAP<65 or UOP<30
   .
   # Altered mental status: Likely encephalopathy in the setting of
   infection. Head CT negative at OSH. No history of encephalopathy. Now
   intubated and sedated.
   - ceftriaxone
   - albumin 1.5g/kg on day 1 and 1g/kg on day 3
   - lactulose 30ml PO TID, titrate to [**5-22**] BM daily
   .
   # Leukocytosis: Pt with WBC of 14.1 with left shift on presentation,
   now 10.8.  Afebrile. Peritoneal fluid is consistent with SBP.
   Peritoneal fluid growing rare GNRs. Worsening CXR concerning for
   multifocal pneumonia. Blood cx pending. Negative UA, urine cx pending.
   Lactate 2.6 on presentation. Hemodynamically stable.
   - ceftriaxone as above
   - flagyl for aspiration coverage, levaquin for atypicals
   - d/c vanco
   - repeat diagnostic SBP to evaluate for improvement
   - cont to monitor WBC
   - f/u blood cx, urine cx
   .
   # Cirrhosis: Per pt's father, he has been worked up at [**Hospital1 5729**] and his liver disease is felt to be [**3-21**] EtOH.
   - RUQ u/s showed cirrhosis, moderate ascites, patent vessels,
   gallbladder sludge.
   - AFP 2.8
   - hepatitis panel pending
   - lactulose
   - consider therapeutic paracentesis when attempting to wean pt from
   vent
   .
   # EtOH abuse: Pt is still actively drinking.
   - cover with CIWA scale
   - social work consult once stable
   .
   # FEN: blood products for resuscitation, replete electrolytes prn, NPO
   .
   # Prophylaxis: pneumoboots, IV PPI, lactulose
   .
   # Access: multiple pIV
   .
   # Code: full
   .
   # Communication: [**Name (NI) **] father [**Name (NI) **] [**Name (NI) **] [**Name (NI) 2381**]
   - home [**Telephone/Fax (1) 5730**], cell [**Telephone/Fax (1) 5731**]
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2140-6-19**] 08:16 PM 35 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2140-6-18**] 09:30 AM
   18 Gauge - [**2140-6-19**] 12:00 AM
   Arterial Line - [**2140-6-19**] 12:08 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: father
   [**Name (NI) 129**] status: Full code
   Disposition:ICU

2140-06-21 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - liver recs: continue abx, cont. supportive care
   - ARDS net setting on vent between 420 and 480 --> pt. currently at 450
   - Repeat PTT 52
   - Diagnostic paracentesis done
   - PICC line in neck, could not be taken to IR today, nursing says line
   may drop down into place if not used, will obtain CXR tomorrow in AM.
   - lytes pending, net positive 700 cc at 9pm, given 40meq lasix after PM
   lytes show Cr to 1.0
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2140-6-20**] 08:00 AM
   Ceftriaxone - [**2140-6-20**] 11:00 AM
   Levofloxacin - [**2140-6-20**] 10:00 PM
   Metronidazole - [**2140-6-21**] 12:30 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2140-6-20**] 11:30 PM
   Fentanyl - [**2140-6-21**] 03:00 AM
   Midazolam (Versed) - [**2140-6-21**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-21**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 109 (94 - 124) bpm
   BP: 122/50(75) {117/48(74) - 142/75(99)} mmHg
   RR: 15 (9 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.5 kg (admission): 98.2 kg
   Height: 69 Inch
             Total In:
                                                                  2,581 mL
                                                                    486 mL
   PO:
             TF:
                                                                    768 mL
                                                                    176 mL
   IVF:
                                                                  1,103 mL
                                                                    220 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  1,475 mL
                                                                    410 mL
   Urine:
                                                                  1,475 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,106 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 451 (451 - 451) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.46/40/155/28/5
   Ve: 8.2 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General: chronically ill appearing, jaundiced, intubated
   HEENT: icteric sclera, dry MM, ETT in place
   Neck: supple, JVP not elevated
   Lungs: Decreased breath sounds left lower and right upper lung fields,
   + crackles
   CV: Regular rate and rhythm, normal S1 + S2, 2/6 SEM
   Abdomen: distended
   Rectal: brown guaiac positive stool
   Ext: 3+ LE edema with signs of chronic venous stasis
   Neuro: sedated,  +asterixis
   Labs / Radiology
   58 K/uL
   7.6 g/dL
   104 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.8 mEq/L
   27 mg/dL
   109 mEq/L
   144 mEq/L
   20.9 %
   10.1 K/uL
        [image002.jpg]
     Ascites
                                      WBC
                                    1900
                                      RBC
                                    9567
                                     Poly
                                     80
                                     Lymph
                                      7
                                     Mono
                                     10
                                      EOs
   Mesothe: 3
   PMN total on [**6-20**] = 1520
   PMN total on [**6-18**] = 1200
                                     pH
                                    7.46
                                    pCO2
                                     40
                                     pO2
                                     155
                                    HCO3
                                     29
                                   BaseXS
                                      5
                             [**2140-6-19**]  03:00 PM
                             [**2140-6-19**]  03:11 PM
                             [**2140-6-20**]  12:52 AM
                             [**2140-6-20**]  05:01 AM
                             [**2140-6-20**]  05:22 AM
                             [**2140-6-20**]  03:51 PM
                             [**2140-6-20**]  04:08 PM
                             [**2140-6-20**]  08:47 PM
                             [**2140-6-21**]  03:24 AM
                             [**2140-6-21**]  03:37 AM
   WBC
   10.8
   10.1
   Hct
   23.7
   22.2
   22.9
   21.6
   20.9
   Plt
   69
   58
   Cr
   1.0
   1.0
   1.0
   1.0
   TCO2
   30
   31
   29
   29
   Glucose
   106
   91
   98
   104
   Other labs: PT / PTT / INR:29.1/52.2/3.0, CK / CKMB / Troponin-T:867//,
   ALT / AST:26/83, Alk Phos / T Bili:34/15.9, Fibrinogen:92 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.8 g/dL, LDH:356 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 38 year old man with presumed EtOH
   cirrhosis who presents after being found down at home with altered
   mental status and now found to have SBP.
   # Respiratory failure. Concern for pneumonia vs.  fluid overload vs
   ascites. Also would consider TRALI as received multiple blood products.
   Likely a combination of these etiologies. Intubated [**6-18**] after CXR
   showed worsening R lung infiltrates vs. edema. Ceftriaxone started,
   Flagyl, Levaquin added to cover for atypicals. 20mg IV lasix initially
   ineffective, given 40mg IV lasix after Cr stable at 1.0 in PM yest,
   goal even
   - Wean FiO2 as tolerated
   - ARDSnet tidal volumes currently maintained given height at 450cc
   - daily CXR
   - diuresis with goal even, given stable Cr, will consider lasix 40 if
   pt. becomes overloaded
   - on ceftriaxone, levaquin, and flagyl for pneumonia coverage, each day
   4
   - f/u sputum cx
   - PICC line
   .
   # Leukocytosis/SBP: Pt with WBC of 14.1 with left shift on
   presentation, now 10.1.  Afebrile. Peritoneal fluid is consistent with
   SBP. Peritoneal fluid growing rare GNRs.  Repeat Diagnostic tap
   currently showing increased polys in ascitic fluid.    Worsening CXR
   concerning for multifocal pneumonia. Blood cx pending. Negative UA,
   urine cx pending. Lactate 2.6 on presentation. Hemodynamically stable.
   - ceftriaxone, flagyl for aspiration coverage, levaquin for atypicals
   - cont to monitor WBC
   - f/u blood cx, urine cx
   - Consider secondary sources of peritonitis
   .
   # Acute blood loss anemia: Pt's hematocrit was 15 at the OSH and 17 on
   arrival to the ED here. He has received one unit RBC at the OSH and one
   unit in the ED. Unknown baseline. No history of frank hematemesis of
   BRBPR but was guaiac positive in the ED. EGD showed grade one varices
   and portal gastropathy. Received total 4 units RBCs and 4 units FFP in
   ICU [**6-18**], crit now slowly trending down to 20.9.  No frank areas of
   bleeding.
   - continue to monitor crits and transfuse as needed, possibly give 1
   unit
   - transfuse FFP for active bleeding
   - iron studies consistent with anemia of chronic disease
   - if continued bleeding consider GI c/s for repeat scope
   .
   # Hypotension: Differential includes evolving sepsis for peritoneal
   infection +/- possible pneumonia, hypovolemia, blood loss. Pressures
   stable since admission.
   - continue multiple peripheral IVs
   - PICC in IR today, currently in RIJ
   - continue antibiotics for SBP, pneumonia
   - f/u cx
   - IVF bolus for MAP<65 or UOP<30
   .
   # Altered mental status: Likely encephalopathy in the setting of
   infection. Head CT negative at OSH. No history of encephalopathy. Now
   intubated and sedated.
   - albumin 1.5g/kg on day 1 and 1g/kg on day 3
   - lactulose 45ml PO TID, titrate to [**5-22**] BM daily
   .
   # Cirrhosis: Per pt's father, he has been worked up at [**Hospital1 5729**] and his liver disease is felt to be [**3-21**] EtOH.
   - RUQ u/s showed cirrhosis, moderate ascites, patent vessels,
   gallbladder sludge.
   - AFP 2.8
   - hepatitis panel negative for B and C
   - lactulose
   - consider therapeutic paracentesis when attempting to wean pt from
   vent
   .
   # EtOH abuse: Pt is still actively drinking.
   - cover with CIWA scale
   - social work consult once stable
   .
   # FEN: blood products for resuscitation, replete electrolytes prn, NPO
   .
   # Prophylaxis: pneumoboots, IV PPI, lactulose
   .
   # Access: multiple pIV
   .
   # Code: full
   .
   # Communication: [**Name (NI) **] father [**Name (NI) **] [**Name (NI) **] [**Name (NI) 2381**]
   - home [**Telephone/Fax (1) 5730**], cell [**Telephone/Fax (1) 5731**]
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2140-6-18**] 09:30 AM
   18 Gauge - [**2140-6-18**] 09:54 PM
   Arterial Line - [**2140-6-19**] 12:08 AM
   PICC Line - [**2140-6-20**] 10:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-06-22 07:08:00 Physician Resident Progress Note
24 Hour Events:
   -1 u pRBCs
   -PICC placed in IR
   -lasix gtt
   -per ID continue current abx regimen
   -will consider CT abd per ID recs, will discuss on rounds in am
   -needs f/u of urine legionella, blood smear
   -family meeting on friday
   -hemolysis/DIC labs sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2140-6-20**] 08:00 AM
   Ceftriaxone - [**2140-6-21**] 10:00 AM
   Levofloxacin - [**2140-6-21**] 11:02 PM
   Metronidazole - [**2140-6-22**] 12:30 AM
   Infusions:
   Fentanyl - 70 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2140-6-21**] 04:35 PM
   Pantoprazole (Protonix) - [**2140-6-21**] 07:39 PM
   Midazolam (Versed) - [**2140-6-22**] 03:19 AM
   Fentanyl - [**2140-6-22**] 03:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-22**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.7
C (98.1
   HR: 92 (92 - 116) bpm
   BP: 138/63(85) {116/49(72) - 148/74(97)} mmHg
   RR: 20 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.5 kg (admission): 98.2 kg
   Height: 69 Inch
             Total In:
                                                                  2,281 mL
                                                                    530 mL
   PO:
             TF:
                                                                    740 mL
                                                                    170 mL
   IVF:
                                                                    971 mL
                                                                    315 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,025 mL
                                                                    640 mL
   Urine:
                                                                  1,345 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    256 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 451) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.42/46/133/28/5
   Ve: 8 L/min
   PaO2 / FiO2: 332
   Physical Examination
   General: chronically ill appearing, jaundiced, intubated
   HEENT: icteric sclera, dry MM, ETT in place
   Neck: supple, JVP not elevated
   Lungs: Decreased breath sounds left lower and right upper lung fields,
   + crackles
   CV: Regular rate and rhythm, normal S1 + S2, 2/6 SEM
   Abdomen: distended
   Rectal: black/brown guaiac positive stool
   Ext: 3+ LE edema with signs of chronic venous stasis
   Neuro: sedated
   Labs / Radiology
   72 K/uL
   9.1 g/dL
   108 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.6 mEq/L
   32 mg/dL
   112 mEq/L
   145 mEq/L
   26.0 %
   12.7 K/uL
        [image002.jpg]
                                     pH
                                    7.42
                                    pCO2
                                     46
                                     pO2
                                     133
                                    HCO3
                                     31
                                   BaseXS
                                      5
   Urinary Legionella ([**6-21**]): Negative
   Sputum Gram Stain ([**6-21**]): Negative for microorganisms
   FDP: 10-40
   Hapto: <20
   Fibrinogen: 114
                             [**2140-6-20**]  05:22 AM
                             [**2140-6-20**]  03:51 PM
                             [**2140-6-20**]  04:08 PM
                             [**2140-6-20**]  08:47 PM
                             [**2140-6-21**]  03:24 AM
                             [**2140-6-21**]  03:37 AM
                             [**2140-6-21**]  01:19 PM
                             [**2140-6-21**]  05:05 PM
                             [**2140-6-22**]  03:30 AM
                             [**2140-6-22**]  03:32 AM
   WBC
   10.1
   11.7
   12.7
   Hct
   21.6
   20.9
   24.6
   26.0
   Plt
   58
   58
   72
   Cr
   1.0
   1.0
   1.1
   1.0
   TCO2
   31
   29
   29
   30
   31
   Glucose
   98
   104
   108
   108
   Other labs: PT / PTT / INR:37.2/62.3/4.0, CK / CKMB / Troponin-T:867//,
   ALT / AST:24/82, Alk Phos / T Bili:56/17.4, Differential-Neuts:83.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Fibrinogen:114 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL, LDH:317 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 38 year old man with presumed EtOH
   cirrhosis who presents after being found down at home with altered
   mental status and now found to have SBP.
   # Respiratory failure. Concern for pneumonia vs.  fluid overload vs
   ascites. Also would consider TRALI as received multiple blood products.
   Likely a combination of these etiologies. Intubated [**6-18**] after CXR
   showed worsening R lung infiltrates vs. edema. Ceftriaxone started,
   Flagyl, Levaquin added to cover for atypicals. I/O even yesterday.
   - Wean FiO2 as tolerated
   - ARDSnet tidal volumes currently maintained given height at 450cc
   - daily CXR
   - diuresis with goal even, given stable Cr, will consider lasix 40 if
   pt. becomes overloaded
   - on ceftriaxone, levaquin, and flagyl for pneumonia coverage, each day
   4
   - f/u sputum cx
   - PICC line
   .
   # Leukocytosis/SBP: Pt with WBC of 14.1 with left shift on
   presentation, now 12.1.  Afebrile. Peritoneal fluid is consistent with
   SBP. Peritoneal fluid growing rare GNRs.  Repeat Diagnostic tap
   currently showing increased polys in ascitic fluid.    Worsening CXR
   concerning for multifocal pneumonia. Blood cx pending. Negative UA,
   ucx.  Hemodynamically stable.
   - ceftriaxone, flagyl for aspiration coverage, levaquin for atypicals
   - cont to monitor WBC
   - f/u blood cx,
   .
   # Acute blood loss anemia: Pt's hematocrit was 15 at the OSH and 17 on
   arrival to the ED here. He has received one unit RBC at the OSH and one
   unit in the ED. Unknown baseline. No history of frank hematemesis of
   BRBPR but was guaiac positive in the ED. EGD showed grade one varices
   and portal gastropathy. Received total 4 units RBCs and 4 units FFP in
   ICU [**6-18**], received 1 unit yesterday, appropriate Hct bump to 24, now
   26.  No frank areas of bleeding.
   - continue to monitor crits and transfuse for Hct < 21
   - transfuse FFP for active bleeding
   - iron studies consistent with anemia of chronic disease
   - if continued bleeding consider GI c/s for repeat scope
   .
   # Hypotension: Differential includes evolving sepsis for peritoneal
   infection +/- possible pneumonia, hypovolemia, blood loss. Pressures
   stable since admission.
   - continue multiple peripheral IVs
   - PICC placed
   - continue antibiotics for SBP, pneumonia
   - f/u cx
   - IVF bolus for MAP<65 or UOP<30
   .
   # Altered mental status: Likely encephalopathy in the setting of
   infection. Head CT negative at OSH. No history of encephalopathy. Now
   intubated and sedated.
   - received albumin
   - lactulose 45ml PO TID, titrate to [**5-22**] BM daily
   .
   # Cirrhosis: Per pt's father, he has been worked up at [**Hospital1 5729**] and his liver disease is felt to be [**3-21**] EtOH.
   - RUQ u/s showed cirrhosis, moderate ascites, patent vessels,
   gallbladder sludge.
   - AFP 2.8
   - hepatitis panel negative for B and C
   - lactulose
   - consider therapeutic paracentesis when attempting to wean pt from
   vent
   .
   # EtOH abuse: Pt is still actively drinking.
   - cover with CIWA scale
   - social work consult once stable
   .
   # FEN: blood products for resuscitation, replete electrolytes prn, NPO
   .
   # Prophylaxis: pneumoboots, IV PPI, lactulose
   .
   # Access: multiple pIV, PICC placed by IR yesterday, A line placed
   .
   # Code: full
   .
   # Communication: [**Name (NI) **] father [**Name (NI) **] [**Name (NI) **] [**Name (NI) 2381**]
   - home [**Telephone/Fax (1) 5730**], cell [**Telephone/Fax (1) 5731**]
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2140-6-18**] 09:30 AM
   18 Gauge - [**2140-6-18**] 09:54 PM
   Arterial Line - [**2140-6-19**] 12:08 AM
   PICC Line - [**2140-6-20**] 10:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-06-23 07:15:00 Physician Resident Progress Note
CT torso:  See below
   lasix gtt @ 10.
   HCT 26.0-->24.7--> 26.6
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2140-6-20**] 08:00 AM
   Ceftriaxone - [**2140-6-22**] 11:00 AM
   Levofloxacin - [**2140-6-22**] 10:25 PM
   Metronidazole - [**2140-6-23**] 12:05 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 70 mcg/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-6-22**] 08:00 AM
   Fentanyl - [**2140-6-23**] 05:00 AM
   Midazolam (Versed) - [**2140-6-23**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-23**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 96 (91 - 109) bpm
   BP: 132/66(87) {124/56(78) - 144/74(94)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.5 kg (admission): 98.2 kg
   Height: 69 Inch
             Total In:
                                                                  2,460 mL
                                                                    424 mL
   PO:
             TF:
                                                                    205 mL
                                                                     51 mL
   IVF:
                                                                  1,359 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                  4,070 mL
                                                                    550 mL
   Urine:
                                                                  2,240 mL
                                                                    550 mL
   NG:
                                                                    230 mL
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -1,610 mL
                                                                   -126 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.47/43/116/29/7
   Ve: 8.7 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   81 K/uL
   9.1 g/dL
   100 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.6 mEq/L
   33 mg/dL
   113 mEq/L
   149 mEq/L
   26.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2140-6-21**]  03:24 AM
                             [**2140-6-21**]  03:37 AM
                             [**2140-6-21**]  01:19 PM
                             [**2140-6-21**]  05:05 PM
                             [**2140-6-22**]  03:30 AM
                             [**2140-6-22**]  03:32 AM
                             [**2140-6-22**]  02:57 PM
                             [**2140-6-22**]  09:49 PM
                             [**2140-6-22**]  11:30 PM
                             [**2140-6-23**]  04:15 AM
   WBC
   10.1
   11.7
   12.7
   10.8
   10.2
   Hct
   20.9
   24.6
   26.0
   24.7
   26.6
   26.8
   Plt
   58
   58
   72
   74
   81
   Cr
   1.0
   1.1
   1.0
   0.9
   0.9
   TCO2
   29
   30
   31
   32
   Glucose
   104
   108
   108
   106
   100
   Other labs: PT / PTT / INR:38.9/64.4/4.2, CK / CKMB / Troponin-T:867//,
   ALT / AST:24/80, Alk Phos / T Bili:49/15.6, Differential-Neuts:83.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Fibrinogen:114 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL, LDH:299 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Blood Culture ([**6-18**], [**6-19**]): Pending
   UCx ([**6-22**]): Pending
   Fluid Culture ([**2140-6-20**]):  Prelim no growth
   Sputum Culture ([**2140-6-21**]): Prelim no growth
   CT Torso ([**2140-6-22**]):  Large left pleural effusion with diffuse areas of
   ground glass and airspace, opacities in the lungs, may reflect
   infection/inflammation with component of fluid overload. Cirrhosis with
   evidence of portal hypertension including large ascites, increased from
   [**2140-6-18**] and anasarca. No abscess identified.
   Assessment and Plan
   Assessment and Plan: This is a 38 year old man with presumed EtOH
   cirrhosis who presents after being found down at home with altered
   mental status and now found to have SBP, family meeting scheduled
   tomorrow.
   # Respiratory failure:  Pneumonia and SBP suspected.  In addition,
   suffering from fluid overload, net negative 1.7L yesterday, Cr at 0.9.
   Lasix gtt at 10.  Ceftriaxone started, Flagyl, Levaquin added to cover
   for atypicals.  Sputum and Peritoneal Cx show no growth preliminarily.
   CT continues to show opacities in lungs with anasarca.
   - ARDSnet tidal volumes currently maintained given height at 450cc
   - daily CXR
   - diuresis with goal -1L per day, continue Lasix
   - on ceftriaxone, levaquin, and flagyl for pneumonia coverage, each day
   6
   .
   # Leukocytosis/SBP: Pt with WBC of 14.1 with left shift on
   presentation, now at 10.2.  Afebrile. CT torso with no abscess.
   Peritoneal fluid is consistent with SBP. Initial Peritoneal fluid
   growing serratia, repeat prelim shows no growth .  Blood cx pending,
   recent UCx pending. Negative UA, ucx.  Hemodynamically stable.  ID
   would repeat tap if more ascites, not to send BCx in bottles due to
   dilutional effect, continue abx.
   - ceftriaxone, flagyl for aspiration coverage, levaquin for atypicals
   - cont to monitor WBC
   - f/u blood cx
   - Obtain CT torso for possible other sources of peritonitis.
   .
   # Acute blood loss anemia: Pt's hematocrit was 15 at the OSH and 17 on
   arrival to the ED here. He has received one unit RBC at the OSH and one
   unit in the ED. Unknown baseline. No history of frank hematemesis of
   BRBPR but was guaiac positive in the ED. EGD showed grade one varices
   and portal gastropathy. Received total 4 units RBCs and 4 units FFP in
   ICU [**6-18**], received 1 unit, appropriate Hct bump to 24, now 26.  No frank
   areas of bleeding.
   - continue to monitor crits and transfuse for Hct < 21
   - transfuse FFP for active bleeding
   - iron studies consistent with anemia of chronic disease
   - if continued bleeding consider GI c/s for repeat scope
   .
   # Hypotension: Differential includes evolving sepsis for peritoneal
   infection +/- possible pneumonia, hypovolemia, blood loss. Pressures
   stable since admission.
   .
   # Altered mental status: Likely encephalopathy in the setting of
   infection. Head CT negative at OSH. No history of encephalopathy. Now
   intubated and sedated.
   - received albumin
   - lactulose 45ml PO QID, titrate to [**5-22**] BM daily
   .
   # Cirrhosis: Per pt's father, he has been worked up at [**Hospital1 5729**] and his liver disease is felt to be [**3-21**] EtOH.
   - RUQ u/s showed cirrhosis, moderate ascites, patent vessels,
   gallbladder sludge.
   - AFP 2.8
   - hepatitis panel negative for B and C
   - lactulose
   - consider therapeutic paracentesis when attempting to wean pt from
   vent
   .
   # EtOH abuse: Pt is still actively drinking.
   - cover with CIWA scale
   - social work consult once stable
   .
   # FEN: blood products for resuscitation, replete electrolytes prn, NPO
   .
   # Prophylaxis: pneumoboots, IV PPI, lactulose
   .
   # Access: pIV, PICC, A line placed
   .
   # Code: full
   .
   # Communication: [**Name (NI) **] father [**Name (NI) **] [**Name (NI) **] [**Name (NI) 2381**]
   - home [**Telephone/Fax (1) 5730**], cell [**Telephone/Fax (1) 5731**]
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2140-6-23**] 02:05 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-6-19**] 12:08 AM
   PICC Line - [**2140-6-20**] 10:42 AM
   18 Gauge - [**2140-6-23**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-06-24 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -I/O net negative 1.7L @ 2AM
   -Family meeting today at noon
   -UCx from [**6-22**] negative
   -PEEP at 8, Lasix gtt at 12
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2140-6-22**] 10:25 PM
   Metronidazole - [**2140-6-23**] 08:28 AM
   Ceftriaxone - [**2140-6-23**] 10:42 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Furosemide (Lasix) - 12 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2140-6-23**] 11:00 AM
   Lorazepam (Ativan) - [**2140-6-23**] 02:00 PM
   Pantoprazole (Protonix) - [**2140-6-23**] 08:23 PM
   Fentanyl - [**2140-6-24**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-24**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 119 (87 - 122) bpm
   BP: 152/90(112) {111/52(70) - 165/96(119)} mmHg
   RR: 18 (7 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.5 kg (admission): 98.2 kg
   Height: 69 Inch
             Total In:
                                                                  2,261 mL
                                                                    797 mL
   PO:
             TF:
                                                                    148 mL
                                                                     77 mL
   IVF:
                                                                  1,413 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                  3,145 mL
                                                                  1,840 mL
   Urine:
                                                                  1,945 mL
                                                                  1,040 mL
   NG:
   Stool:
                                                                  1,200 mL
                                                                    800 mL
   Drains:
   Balance:
                                                                   -884 mL
                                                                 -1,043 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   Compliance: 56.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.47/45/124/31/8
   Ve: 8.7 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General: chronically ill appearing, jaundiced, intubated
   HEENT: icteric sclera, dry MM, ETT in place
   Neck: supple, JVP not elevated
   Lungs: Decreased breath sounds left lower and right upper lung fields,
   + crackles
   CV: Regular rate and rhythm, normal S1 + S2, 2/6 SEM
   Abdomen: distended
   Rectal: black/brown guaiac positive stool
   Ext: 3+ LE edema with signs of chronic venous stasis
   Neuro: sedated
   Labs / Radiology
   91 K/uL
   8.4 g/dL
   117 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.2 mEq/L
   36 mg/dL
   115 mEq/L
   151 mEq/L
   24.8 %
   9.9 K/uL
        [image002.jpg]
                             [**2140-6-22**]  03:30 AM
                             [**2140-6-22**]  03:32 AM
                             [**2140-6-22**]  02:57 PM
                             [**2140-6-22**]  09:49 PM
                             [**2140-6-22**]  11:30 PM
                             [**2140-6-23**]  04:15 AM
                             [**2140-6-23**]  04:09 PM
                             [**2140-6-23**]  04:28 PM
                             [**2140-6-24**]  03:25 AM
                             [**2140-6-24**]  03:54 AM
   WBC
   12.7
   10.8
   10.2
   10.8
   9.9
   Hct
   26.0
   24.7
   26.6
   26.8
   26.0
   24.8
   Plt
   72
   74
   81
   90
   91
   Cr
   1.0
   0.9
   0.9
   1.0
   0.8
   TCO2
   31
   32
   34
   34
   Glucose
   108
   106
   100
   106
   117
   Other labs: PT / PTT / INR:36.9/66.6/3.9, CK / CKMB / Troponin-T:867//,
   ALT / AST:23/80, Alk Phos / T Bili:43/13.1, Differential-Neuts:83.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Fibrinogen:114 mg/dL,
   Lactic Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:299 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 38 year old man with presumed EtOH
   cirrhosis who presents after being found down at home with altered
   mental status and now found to have SBP, family meeting scheduled
   tomorrow.
   # Respiratory failure:  Suffering from fluid overload with ascites, net
   negative 880 ccs yesterday, Cr at 0.8.  Lasix gtt at 12.  Sputum and
   Peritoneal Cx show no growth preliminarily, as a result, will d/c
   levaquin and flagyl, continue ceftriaxone, day 7.  CT continues to show
   opacities in lungs with anasarca.
   - ARDSnet tidal volumes currently maintained given height at 450cc
   - daily CXR
   - diuresis with goal -1L per day, continue Lasix gtt
   - on ceftriaxone, day 7.
   .
   # Leukocytosis/SBP: Pt with WBC of 14.1 with left shift on
   presentation, now at 9.9.  Afebrile. CT torso with no abscess.
   Peritoneal fluid is consistent with SBP. Initial Peritoneal fluid
   growing serratia, repeat prelim shows no growth.  Blood cx pending,
   negative UA, ucx.  Hemodynamically stable.
   - ceftriaxone for pansensitive serratia
   - cont to monitor WBC
   - f/u blood cx, peritoneal cx
   .
   # Acute blood loss anemia: Pt's hematocrit was 15 at the OSH and 17 on
   arrival to the ED here. He has received one unit RBC at the OSH and one
   unit in the ED. Unknown baseline. No history of frank hematemesis of
   BRBPR but was guaiac positive in the ED. EGD showed grade one varices
   and portal gastropathy. Received total 4 units RBCs and 4 units FFP in
   ICU [**6-18**], received 1 unit (Date), appropriate Hct bump to 24, now 24.8
   from 26.
   - continue to monitor crits and transfuse for Hct < 21
   - transfuse FFP for active bleeding
   .
   # Hypotension: Differential includes evolving sepsis for peritoneal
   infection +/- possible pneumonia, hypovolemia, blood loss. Pressures
   stable since admission.
   .
   # Altered mental status: Likely hepatic encephalopathy.
   - lactulose 30ml PO TID, titrate to [**5-22**] BM daily
   .
   # Cirrhosis: Per pt's father, he has been worked up at [**Hospital1 5729**] and his liver disease is felt to be [**3-21**] EtOH.
   - RUQ u/s showed cirrhosis, moderate ascites, patent vessels,
   gallbladder sludge.
   - AFP 2.8
   - hepatitis panel negative for B and C
   - lactulose
   - consider therapeutic paracentesis when attempting to wean pt from
   vent
   .
   # EtOH abuse: Pt is still actively drinking.
   - cover with CIWA scale
   - social work consult once stable
   .
   # FEN: blood products for resuscitation, replete electrolytes prn, NPO
   .
   # Prophylaxis: pneumoboots, IV PPI, lactulose
   .
   # Access: pIV, PICC, A line placed
   .
   # Code: full
   .
   # Communication: [**Name (NI) **] father [**Name (NI) **] [**Name (NI) **] [**Name (NI) 2381**]
   - home [**Telephone/Fax (1) 5730**], cell [**Telephone/Fax (1) 5731**]
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2140-6-23**] 07:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-6-19**] 12:08 AM
   PICC Line - [**2140-6-20**] 10:42 AM
   18 Gauge - [**2140-6-23**] 04:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: patient
s father
   [**Name (NI) 129**] status: Full code
   Disposition:ICU

2140-06-25 07:29:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
   -family meeting held yesterday. Poor insight into extent of disease and
   prognosis
   -negative 600cc on lasix gtt
   -continues to have large amount of green liquid stool. C diff negative
   [**6-24**].
   -RSBI this AM deferred secondary to sedation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2140-6-22**] 10:25 PM
   Metronidazole - [**2140-6-23**] 08:28 AM
   Ceftriaxone - [**2140-6-23**] 10:42 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-6-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-25**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 95 (91 - 114) bpm
   BP: 112/50(69) {106/44(64) - 143/77(99)} mmHg
   RR: 20 (8 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.5 kg (admission): 98.2 kg
   Height: 69 Inch
             Total In:
                                                                  3,682 mL
                                                                  1,899 mL
   PO:
             TF:
                                                                    408 mL
                                                                    321 mL
   IVF:
                                                                  2,213 mL
                                                                  1,017 mL
   Blood products:
   Total out:
                                                                  4,210 mL
                                                                  1,310 mL
   Urine:
                                                                  2,510 mL
                                                                    810 mL
   NG:
   Stool:
                                                                  1,700 mL
   Drains:
   Balance:
                                                                   -528 mL
                                                                    589 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 98%
   ABG: 7.48/48/89.[**Numeric Identifier 433**]/31/10
   Ve: 8.3 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General: chronically ill appearing, jaundiced, intubated
   HEENT: icteric sclera, ETT in place
   Lungs: Course crackles bilaterally on anterior exam
   CV: Regular rate and rhythm, normal S1 + S2, 2/6 SEM
   Abdomen: distended. No rebound or guarding.
   Rectal: brown stool from rectal tube
   Ext: 3+ LE edema with signs of chronic venous stasis
   Neuro: sedated
   Labs / Radiology
   95 K/uL
   7.9 g/dL
   102 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.4 mEq/L
   36 mg/dL
   114 mEq/L
   150 mEq/L
   23.1 %
   9.9 K/uL
        [image002.jpg]
                             [**2140-6-22**]  09:49 PM
                             [**2140-6-22**]  11:30 PM
                             [**2140-6-23**]  04:15 AM
                             [**2140-6-23**]  04:09 PM
                             [**2140-6-23**]  04:28 PM
                             [**2140-6-24**]  03:25 AM
                             [**2140-6-24**]  03:54 AM
                             [**2140-6-24**]  04:56 PM
                             [**2140-6-25**]  04:15 AM
                             [**2140-6-25**]  04:35 AM
   WBC
   10.2
   10.8
   9.9
   9.9
   Hct
   26.6
   26.8
   26.0
   24.8
   24.9
   23.1
   Plt
   81
   90
   91
   95
   Cr
   0.9
   1.0
   0.8
   0.9
   1.0
   TCO2
   32
   34
   34
   37
   Glucose
   100
   106
   117
   110
   102
   Other labs: PT / PTT / INR:35.4/74.8/3.7, CK / CKMB / Troponin-T:867//,
   ALT / AST:23/87, Alk Phos / T Bili:48/11.1, Differential-Neuts:83.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Fibrinogen:114 mg/dL,
   Lactic Acid:1.9 mmol/L, Albumin:2.3 g/dL, LDH:299 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Microbiology: [**6-24**] C diff negative
   Assessment and Plan
   This is a 38 year old man with presumed EtOH cirrhosis who presents
   after being found down at home with altered mental status and SBP.
   # Respiratory failure:  Suffering from fluid overload with ascites, net
   negative 600 ccs yesterday, Cr at 1.0.  Lasix gtt at 12.  Sputum and
   Peritoneal Cx show no growth preliminarily.  Continue ceftriaxone (day
   1= [**6-18**]).  CXR appears unchanged today.
   - ARDSnet tidal volumes currently maintained given height at 450cc
   - continue to wean PEEP as tolerated
   - diuresis with goal -1L per day, continue Lasix gtt
   - on ceftriaxone, day 8.
   .
   # Leukocytosis/SBP: Pt with WBC of 14.1 with left shift on
   presentation, now at 9.9.  Afebrile. CT torso with no abscess.
   Peritoneal fluid is consistent with SBP. Initial Peritoneal fluid
   growing serratia, repeat prelim shows no growth.  Blood cx pending,
   negative UA, ucx.  Hemodynamically stable.
   - ceftriaxone for pansensitive serratia
   - cont to monitor WBC
   - f/u blood cx, peritoneal cx
   .
   # Acute blood loss anemia: Pt's hematocrit was 15 at the OSH and 17 on
   arrival to the ED here. He received one unit RBC at the OSH and one
   unit in the ED. Unknown baseline. No history of frank hematemesis of
   BRBPR but was guaiac positive in the ED. EGD showed grade one varices
   and portal gastropathy. Received total 4 units RBCs and 4 units FFP in
   ICU [**6-18**], received 1 unit (Date), appropriate Hct bump to 24, now 23.1
   from 24.9 last night.  Hemodynamically stable and no active signs of
   bleeding.
   - continue to monitor crits [**Hospital1 **] and transfuse for Hct < 21
   - transfuse FFP for active bleeding
   - continue PPI [**Hospital1 **]
   .
   # Hypernatremia: Na 150. Likely secondary to lasix diuresis.
   -increase free water with tube feeds
   -IV D5W
   -check PM lytes
   .
   # Hypotension: Differential includes evolving sepsis for peritoneal
   infection +/- possible pneumonia, hypovolemia, blood loss. Pressures
   stable since admission.
   .
   # Altered mental status: Likely hepatic encephalopathy.
   - lactulose 30ml PO TID, titrate to [**5-22**] BM daily
   .
   # Cirrhosis: Per pt's father, he has been worked up at [**Hospital1 5729**] and his liver disease is felt to be [**3-21**] EtOH.
   - RUQ u/s showed cirrhosis, moderate ascites, patent vessels,
   gallbladder sludge.
   - AFP 2.8
   - hepatitis panel negative for B and C
   - lactulose
   - consider therapeutic paracentesis when attempting to wean pt from
   vent
   .
   # EtOH abuse: Pt is still actively drinking.
   - cover with CIWA scale
   - social work consult once stable
   .
   # FEN: blood products for resuscitation, replete electrolytes prn, tube
   feeds
   .
   # Prophylaxis: pneumoboots, IV PPI, lactulose
   .
   # Access: pIV, PICC, A line placed
   .
   # Code: full
   .
   # Communication: [**Name (NI) **] father [**Name (NI) **] [**Name (NI) **] [**Name (NI) 2381**]
   - home [**Telephone/Fax (1) 5730**], cell [**Telephone/Fax (1) 5731**]
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2140-6-25**] 01:01 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-6-19**] 12:08 AM
   PICC Line - [**2140-6-20**] 10:42 AM
   18 Gauge - [**2140-6-23**] 04:00 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-06-25 11:16:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2140-6-24**] 05:17 PM
   stool for c.diff
   -diuresed 1L since yesterday
   -cont sig diarrhea.  c. dif neg
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2140-6-22**] 10:25 PM
   Metronidazole - [**2140-6-23**] 08:28 AM
   Ceftriaxone - [**2140-6-23**] 10:42 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-25**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 102 (91 - 113) bpm
   BP: 110/48(69) {106/44(64) - 143/76(99)} mmHg
   RR: 23 (8 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.5 kg (admission): 98.2 kg
   Height: 69 Inch
             Total In:
                                                                  3,682 mL
                                                                  2,129 mL
   PO:
             TF:
                                                                    408 mL
                                                                    515 mL
   IVF:
                                                                  2,213 mL
                                                                  1,054 mL
   Blood products:
   Total out:
                                                                  4,210 mL
                                                                  1,610 mL
   Urine:
                                                                  2,510 mL
                                                                  1,110 mL
   NG:
   Stool:
                                                                  1,700 mL
   Drains:
   Balance:
                                                                   -528 mL
                                                                    519 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 98%
   ABG: 7.48/48/89.[**Numeric Identifier 433**]/31/10
   Ve: 8.9 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   95 K/uL
   102 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.4 mEq/L
   36 mg/dL
   114 mEq/L
   150 mEq/L
   23.1 %
   9.9 K/uL
        [image002.jpg]
                             [**2140-6-22**]  09:49 PM
                             [**2140-6-22**]  11:30 PM
                             [**2140-6-23**]  04:15 AM
                             [**2140-6-23**]  04:09 PM
                             [**2140-6-23**]  04:28 PM
                             [**2140-6-24**]  03:25 AM
                             [**2140-6-24**]  03:54 AM
                             [**2140-6-24**]  04:56 PM
                             [**2140-6-25**]  04:15 AM
                             [**2140-6-25**]  04:35 AM
   WBC
   10.2
   10.8
   9.9
   9.9
   Hct
   26.6
   26.8
   26.0
   24.8
   24.9
   23.1
   Plt
   81
   90
   91
   95
   Cr
   0.9
   1.0
   0.8
   0.9
   1.0
   TCO2
   32
   34
   34
   37
   Glucose
   100
   106
   117
   110
   102
   Other labs: PT / PTT / INR:35.4/74.8/3.7, CK / CKMB / Troponin-T:867//,
   ALT / AST:23/87, Alk Phos / T Bili:48/11.1, Differential-Neuts:83.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Fibrinogen:114 mg/dL,
   Lactic Acid:1.9 mmol/L, Albumin:2.3 g/dL, LDH:299 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   presumed secondary to portal gastropathy given no active bleeding on
   scope
   consider restart nadolol d/w GI
   GI following
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
   Serratia - pan sensitive
   cont abx
 CIRRHOSIS
   ASCITES
 HEPATIC ENCEPHALOPATHY
   lactulose - [**Month (only) 202**] dose given large volume output
 HYPERNATREMIA
   ? related diuresis
   check pm lytes
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   cont wean PEEP as tolerated
   Currently AC set rate in 30s, not triggering own breaths - can inc TV
   and [**Month (only) 202**] rate since no ARDS
   Assess to see if tolerate PSV
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2140-6-25**] 01:01 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-6-19**] 12:08 AM
   PICC Line - [**2140-6-20**] 10:42 AM
   18 Gauge - [**2140-6-23**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2140-06-26 07:09:00 Physician Resident Progress Note
24 Hour Events:
   -fever 100.0. Cultured, C diff sent
   -Na 150. Cut back on lasix gtt to 12
   -+2L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2140-6-23**] 08:28 AM
   Ceftriaxone - [**2140-6-23**] 10:42 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 60 mcg/hour
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-6-25**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-26**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.1
C (97
   HR: 94 (91 - 113) bpm
   BP: 126/54(75) {107/40(61) - 135/73(93)} mmHg
   RR: 14 (9 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.5 kg (admission): 98.2 kg
   Height: 69 Inch
             Total In:
                                                                  5,051 mL
                                                                    915 mL
   PO:
             TF:
                                                                  1,232 mL
                                                                    391 mL
   IVF:
                                                                  2,153 mL
                                                                    214 mL
   Blood products:
   Total out:
                                                                  3,085 mL
                                                                    355 mL
   Urine:
                                                                  1,885 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,966 mL
                                                                    560 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 171 (171 - 171) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.48/40/99.[**Numeric Identifier 433**]/30/5
   Ve: 8.6 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General: chronically ill appearing, jaundiced, intubated
   HEENT: icteric sclera, ETT in place
   Lungs: Course crackles bilaterally on anterior exam
   CV: Regular rate and rhythm, normal S1 + S2, 2/6 SEM
   Abdomen: distended. No rebound or guarding.
   Rectal: brown stool from rectal tube
   Ext: 2+ LE edema with signs of chronic venous stasis
   Neuro: sedated
   Labs / Radiology
   111 K/uL
   8.3 g/dL
   116 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.6 mEq/L
   41 mg/dL
   112 mEq/L
   147 mEq/L
   24.5 %
   12.2 K/uL
        [image002.jpg]
                             [**2140-6-23**]  04:09 PM
                             [**2140-6-23**]  04:28 PM
                             [**2140-6-24**]  03:25 AM
                             [**2140-6-24**]  03:54 AM
                             [**2140-6-24**]  04:56 PM
                             [**2140-6-25**]  04:15 AM
                             [**2140-6-25**]  04:35 AM
                             [**2140-6-25**]  05:20 PM
                             [**2140-6-25**]  06:06 PM
                             [**2140-6-26**]  04:33 AM
   WBC
   10.8
   9.9
   9.9
   12.2
   Hct
   26.0
   24.8
   24.9
   23.1
   23.9
   24.5
   Plt
   90
   91
   95
   111
   Cr
   1.0
   0.8
   0.9
   1.0
   1.1
   1.2
   TCO2
   34
   34
   37
   31
   Glucose
   106
   117
   110
   102
   112
   116
   Other labs: PT / PTT / INR:33.1/63.2/3.5, CK / CKMB / Troponin-T:867//,
   ALT / AST:27/92, Alk Phos / T Bili:74/10.2, Differential-Neuts:83.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Fibrinogen:114 mg/dL,
   Lactic Acid:1.9 mmol/L, Albumin:2.3 g/dL, LDH:264 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   This is a 38 year old man with presumed EtOH cirrhosis who presents
   after being found down at home with altered mental status and SBP.
   # Respiratory failure:  Suffering from fluid overload with ascites, net
   positive 2L, Cr rising, now at 1.2.  Lasix gtt at 12.  Sputum and
   Peritoneal Cx show no growth preliminarily.  Continue ceftriaxone (day
   1= [**6-18**]).
   - ARDSnet tidal volumes currently maintained given height at 450cc
   - continue to wean PEEP as tolerated
   - diuresis with goal -1L per day, continue Lasix gtt
   - on ceftriaxone, day 9.
   .
   # Leukocytosis/SBP: Pt with WBC of 14.1 with left shift on
   presentation, now at 12.2.  Afebrile. CT torso with no abscess.
   Peritoneal fluid is consistent with SBP. Initial Peritoneal fluid
   growing serratia, repeat prelim shows no growth.  Blood cx pending,
   negative UA, ucx.  Hemodynamically stable.
   - ceftriaxone for pansensitive serratia
   - cont to monitor WBC
   - f/u blood cx, peritoneal cx
   .
   # Acute blood loss anemia: Pt's hematocrit was 15 at the OSH and 17 on
   arrival to the ED here. He received one unit RBC at the OSH and one
   unit in the ED. Unknown baseline. No history of frank hematemesis of
   BRBPR but was guaiac positive in the ED. EGD showed grade one varices
   and portal gastropathy. Received total 4 units RBCs and 4 units FFP in
   ICU [**6-18**], received 1 unit (Date), appropriate Hct bump to 24, now 24.5
   last night.  Hemodynamically stable and no active signs of bleeding.
   - continue to monitor crits [**Hospital1 **] and transfuse for Hct < 21
   - transfuse FFP for active bleeding
   - continue PPI [**Hospital1 **]
   .
   # Hypernatremia: Na 147. Likely secondary to lasix diuresis.
   -increase free water with tube feeds
   -IV D5W
   -check PM lytes
   .
   # Hypotension: Differential includes evolving sepsis for peritoneal
   infection +/- possible pneumonia, hypovolemia, blood loss. Pressures
   stable since admission.
   .
   # Altered mental status: Likely hepatic encephalopathy.
   - lactulose 30ml PO TID, titrate to [**5-22**] BM daily
   .
   # Cirrhosis: Per pt's father, he has been worked up at [**Hospital1 5729**] and his liver disease is felt to be [**3-21**] EtOH.
   - RUQ u/s showed cirrhosis, moderate ascites, patent vessels,
   gallbladder sludge.
   - AFP 2.8
   - hepatitis panel negative for B and C
   - lactulose
   - consider therapeutic paracentesis when attempting to wean pt from
   vent
   .
   # EtOH abuse: Pt is still actively drinking.
   - cover with CIWA scale
   - social work consult once stable
   .
   # FEN: blood products for resuscitation, replete electrolytes prn, tube
   feeds
   .
   # Prophylaxis: pneumoboots, IV PPI, lactulose
   .
   # Access: pIV, PICC, A line placed
   .
   # Code: full
   .
   # Communication: [**Name (NI) **] father [**Name (NI) **] [**Name (NI) **] [**Name (NI) 2381**]
   - home [**Telephone/Fax (1) 5730**], cell [**Telephone/Fax (1) 5731**]
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2140-6-26**] 05:28 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-6-19**] 12:08 AM
   PICC Line - [**2140-6-20**] 10:42 AM
   18 Gauge - [**2140-6-23**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-06-26 11:37:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2140-6-25**] 06:26 PM
   temp max 100.0 po
 BLOOD CULTURED - At [**2140-6-26**] 05:27 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-6-26**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 60 mcg/hour
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-6-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-26**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.2
   HR: 92 (91 - 110) bpm
   BP: 114/48(69) {107/40(61) - 135/73(93)} mmHg
   RR: 20 (9 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.5 kg (admission): 98.2 kg
   Height: 69 Inch
             Total In:
                                                                  5,051 mL
                                                                  1,652 mL
   PO:
             TF:
                                                                  1,232 mL
                                                                    629 mL
   IVF:
                                                                  2,153 mL
                                                                    404 mL
   Blood products:
   Total out:
                                                                  3,085 mL
                                                                    520 mL
   Urine:
                                                                  1,885 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,966 mL
                                                                  1,132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 171 (171 - 171) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: 7.48/40/99.[**Numeric Identifier 433**]/30/5
   Ve: 8.8 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended
   Skin:  Not assessed, Jaundice
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   111 K/uL
   116 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.6 mEq/L
   41 mg/dL
   112 mEq/L
   147 mEq/L
   24.5 %
   12.2 K/uL
        [image002.jpg]
                             [**2140-6-23**]  04:09 PM
                             [**2140-6-23**]  04:28 PM
                             [**2140-6-24**]  03:25 AM
                             [**2140-6-24**]  03:54 AM
                             [**2140-6-24**]  04:56 PM
                             [**2140-6-25**]  04:15 AM
                             [**2140-6-25**]  04:35 AM
                             [**2140-6-25**]  05:20 PM
                             [**2140-6-25**]  06:06 PM
                             [**2140-6-26**]  04:33 AM
   WBC
   10.8
   9.9
   9.9
   12.2
   Hct
   26.0
   24.8
   24.9
   23.1
   23.9
   24.5
   Plt
   90
   91
   95
   111
   Cr
   1.0
   0.8
   0.9
   1.0
   1.1
   1.2
   TCO2
   34
   34
   37
   31
   Glucose
   106
   117
   110
   102
   112
   116
   Other labs: PT / PTT / INR:33.1/63.2/3.5, CK / CKMB / Troponin-T:867//,
   ALT / AST:27/92, Alk Phos / T Bili:74/10.2, Differential-Neuts:83.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Fibrinogen:114 mg/dL,
   Lactic Acid:1.9 mmol/L, Albumin:2.3 g/dL, LDH:264 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   38M w/ presumed EtOH cirrhosis presents after being found down at home
   with altered mental status and SBP
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   cont to wean PEEP as tolerated
   assess for PSV
   ascites may be playing some role- consider draining once closer to
   extubation if needed to maximally optimize status
   cont diurese as able
   Scx remains negative
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB) /  ANEMIA
   SECONDARY TO BLOOD LOSS
   presumed secondary to portal gastropathy given no active bleeding on
   scope
   consider restart nadolol d/w GI
   presently no evidence of significant ongoing bleed
   FFP if begins active bleeding.
   GI following
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
   Serratia - pan sensitive
   cont abx
   remains hemodyn stable
 CIRRHOSIS
   Felt secondary to ETOH.  Pt still actively drinking per report.
   Ascites as above

 HEPATIC ENCEPHALOPATHY
   lactulose - [**Month (only) 202**] dose given large volume output
 HYPERNATREMIA
   Likely related to diuresis lasix
   Inc free H2O in TF
   D5W if needed
   Trend lytes
  EtOH abuse:
   - Still actively drinking per report
   - BZD per CIWA scale
   - social work consult once extubated, interactive
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2140-6-26**] 05:28 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-6-19**] 12:08 AM
   PICC Line - [**2140-6-20**] 10:42 AM
   18 Gauge - [**2140-6-23**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2140-06-27 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   38 year old man with presumed EtOH cirrhosis who presents after being
   found down at home with altered mental status and now found to have SBP
   - Afebrile, lasix increased to 15mg/hr from 12, net positive 2.2L,
   little UOP.
   - Cr up to 1.3 with diuresis, steadily climbing
   - ABG suggests metabolic acidosis from renal failure, pH 7.47 pCO2 50
   pO2 73 HCO3 37
   - INR stable at 3.5
   - [**6-25**] BCx: 2 bottles GPC in pairs and clusters.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-6-26**] 10:00 AM
   Infusions:
   Fentanyl - 60 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-6-26**] 08:00 PM
   Fentanyl - [**2140-6-27**] 04:00 AM
   Midazolam (Versed) - [**2140-6-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-27**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.1
C (98.8
   HR: 93 (92 - 110) bpm
   BP: 121/50(71) {97/39(59) - 142/70(92)} mmHg
   RR: 16 (15 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.5 kg (admission): 98.2 kg
   Height: 69 Inch
             Total In:
                                                                  4,415 mL
                                                                  1,877 mL
   PO:
             TF:
                                                                  1,321 mL
                                                                    381 mL
   IVF:
                                                                  1,664 mL
                                                                    921 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    500 mL
   Urine:
                                                                  1,070 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,345 mL
                                                                  1,377 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 335 (335 - 335) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 19
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 99%
   ABG: 7.47/50/73.[**Numeric Identifier **]/31/10
   Ve: 8.4 L/min
   PaO2 / FiO2: 183
   Physical Examination
   General: chronically ill appearing, tremulous, jaundiced, slow to
   respond to questions,
   HEENT: icteric sclera, dry MM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, 2/6 systolic murmur
   throughout the precordium
   Abdomen: distended, diffusely tender to palpation, +fluid wave, no
   hepatosplenomegaly
   Rectal: light brown guaiac positive stool per ED
   Ext: 3+ LE edema with signs of chronic venous stasis bilaterally,
   bilateral dopplerable DP pulses
   Neuro: A+O x 2 (name, hospital in [**Location (un) 168**]), +asterixis
   Labs / Radiology
   119 K/uL
   7.9 g/dL
   124 mg/dL
   1.3 mg/dL
   31 mEq/L
   3.6 mEq/L
   48 mg/dL
   109 mEq/L
   145 mEq/L
   23.7 %
   12.1 K/uL
        [image002.jpg]
                             [**2140-6-24**]  03:54 AM
                             [**2140-6-24**]  04:56 PM
                             [**2140-6-25**]  04:15 AM
                             [**2140-6-25**]  04:35 AM
                             [**2140-6-25**]  05:20 PM
                             [**2140-6-25**]  06:06 PM
                             [**2140-6-26**]  04:33 AM
                             [**2140-6-26**]  04:47 PM
                             [**2140-6-26**]  04:58 PM
                             [**2140-6-27**]  02:52 AM
   WBC
   9.9
   12.2
   11.8
   12.1
   Hct
   24.9
   23.1
   23.9
   24.5
   23.8
   23.7
   Plt
   95
   111
   112
   119
   Cr
   0.9
   1.0
   1.1
   1.2
   1.3
   1.3
   TCO2
   34
   37
   31
   37
   Glucose
   110
   102
   112
   116
   114
   124
   Other labs: PT / PTT / INR:33.6/68.2/3.5, CK / CKMB / Troponin-T:867//,
   ALT / AST:24/95, Alk Phos / T Bili:79/9.0, Differential-Neuts:83.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Fibrinogen:114 mg/dL,
   Lactic Acid:1.9 mmol/L, Albumin:2.3 g/dL, LDH:264 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 38 year old man with presumed EtOH cirrhosis who presents
   after being found down at home with altered mental status and SBP.
   # Respiratory failure:  Suffering from fluid overload with ascites, net
   positive 2L, Cr rising, now at 1.2.  Lasix gtt at 12.  Sputum and
   Peritoneal Cx show no growth preliminarily.  Continue ceftriaxone (day
   1= [**6-18**]).
   - ARDSnet tidal volumes currently maintained given height at 450cc
   - continue to wean PEEP as tolerated
   - diuresis with goal -1L per day, continue Lasix gtt
   - on ceftriaxone, day 9.
   # Leukocytosis/SBP: Pt with WBC of 14.1 with left shift on
   presentation, now at 12.2.  Afebrile. CT torso with no abscess.
   Peritoneal fluid is consistent with SBP. Initial Peritoneal fluid
   growing serratia, repeat prelim shows no growth.  Blood cx pending,
   negative UA, ucx.  Hemodynamically stable.
   - ceftriaxone for pansensitive serratia
   - cont to monitor WBC
   - f/u blood cx, peritoneal cx
   # Acute blood loss anemia: Pt's hematocrit was 15 at the OSH and 17 on
   arrival to the ED here. He received one unit RBC at the OSH and one
   unit in the ED. Unknown baseline. No history of frank hematemesis of
   BRBPR but was guaiac positive in the ED. EGD showed grade one varices
   and portal gastropathy. Received total 4 units RBCs and 4 units FFP in
   ICU [**6-18**], received 1 unit (Date), appropriate Hct bump to 24, now 24.5
   last night.  Hemodynamically stable and no active signs of bleeding.
   - continue to monitor crits [**Hospital1 **] and transfuse for Hct < 21
   - transfuse FFP for active bleeding
   - continue PPI [**Hospital1 **]
   # Hypernatremia: Na 147. Likely secondary to lasix diuresis.
   -increase free water with tube feeds
   -IV D5W
   -check PM lytes
   # Hypotension: Differential includes evolving sepsis for peritoneal
   infection +/- possible pneumonia, hypovolemia, blood loss. Pressures
   stable since admission.
   # Altered mental status: Likely hepatic encephalopathy.
   - lactulose 30ml PO TID, titrate to [**5-22**] BM daily
   # Cirrhosis: Per pt's father, he has been worked up at [**Hospital1 5729**] and his liver disease is felt to be [**3-21**] EtOH.
   - RUQ u/s showed cirrhosis, moderate ascites, patent vessels,
   gallbladder sludge.
   - AFP 2.8
   - hepatitis panel negative for B and C
   - lactulose
   - consider therapeutic paracentesis when attempting to wean pt from
   vent
   # EtOH abuse: Pt is still actively drinking.
   - cover with CIWA scale
   - social work consult once stable
   # FEN: blood products for resuscitation, replete electrolytes prn, tube
   feeds
   # Prophylaxis: pneumoboots, IV PPI, lactulose
   # Access: pIV, PICC, A line placed
   # Code: full
   # Communication: [**Name (NI) **] father [**Name (NI) **] [**Name (NI) **] [**Name (NI) 2381**]
   - home [**Telephone/Fax (1) 5730**], cell [**Telephone/Fax (1) 5731**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2140-6-26**] 02:02 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-6-19**] 12:08 AM
   PICC Line - [**2140-6-20**] 10:42 AM
   18 Gauge - [**2140-6-23**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-06-28 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No events overnight. Started acetazolamide. Cx not speciated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-6-26**] 10:00 AM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-6-27**] 08:25 PM
   Midazolam (Versed) - [**2140-6-28**] 03:00 AM
   Fentanyl - [**2140-6-28**] 03:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-28**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 124 (93 - 127) bpm
   BP: 144/77(99) {108/46(68) - 153/88(110)} mmHg
   RR: 22 (10 - 28) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.5 kg (admission): 98.2 kg
   Height: 69 Inch
             Total In:
                                                                  5,628 mL
                                                                  1,324 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    374 mL
   IVF:
                                                                  2,834 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    820 mL
   Urine:
                                                                  1,400 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,228 mL
                                                                    504 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 14 cmH2O
   Plateau: 17 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.48/46/74/30/9
   Ve: 8.3 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General: chronically ill appearing, tremulous, jaundiced, slow to
   respond to questions, intubated
   HEENT: icteric sclera, dry MM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, 2/6 systolic murmur
   throughout the precordium
   Abdomen: distended, diffusely tender to palpation, +fluid wave, no
   hepatosplenomegaly
   Rectal: light brown guaiac positive stool per ED
   Ext: 3+ LE edema with signs of chronic venous stasis bilaterally,
   bilateral dopplerable DP pulses
   Neuro: A+O x 2 (name, hospital in [**Location (un) 168**]), +asterixis
   Labs / Radiology
   122 K/uL
   7.3 g/dL
   120 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.6 mEq/L
   50 mg/dL
   108 mEq/L
   142 mEq/L
   22.0 %
   14.1 K/uL
        [image002.jpg]
                             [**2140-6-25**]  05:20 PM
                             [**2140-6-25**]  06:06 PM
                             [**2140-6-26**]  04:33 AM
                             [**2140-6-26**]  04:47 PM
                             [**2140-6-26**]  04:58 PM
                             [**2140-6-27**]  02:52 AM
                             [**2140-6-27**]  04:36 PM
                             [**2140-6-27**]  05:02 PM
                             [**2140-6-28**]  04:00 AM
                             [**2140-6-28**]  04:21 AM
   WBC
   12.2
   11.8
   12.1
   14.1
   Hct
   23.9
   24.5
   23.8
   23.7
   22.0
   Plt
   111
   112
   119
   122
   Cr
   1.1
   1.2
   1.3
   1.3
   1.3
   1.2
   TCO2
   31
   37
   31
   35
   Glucose
   112
   116
   114
   124
   109
   120
   Other labs: PT / PTT / INR:31.1/66.2/3.2, CK / CKMB / Troponin-T:867//,
   ALT / AST:26/92, Alk Phos / T Bili:92/8.1, Differential-Neuts:83.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Fibrinogen:114 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:2.3 g/dL, LDH:279 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 38 year old man with presumed EtOH cirrhosis who presents
   after being found down at home with altered mental status and SBP.
   # Alcoholic cirrhosis with ascitis c/b SBP and c/b encephalopathy: (A)
   SBP: on ceftriaxone. (B) ascitis: overall still positive fluid balance,
   with aprx 100 cc/hr on lasix ggt. Problem is the high intake level.
   Will try to consolidate intake. Considering adding a second diuretic
   but furosemide appears effective currently. Acetazolamide added for
   metabolic acidosis. Will touch base with Liver re NG tube (in order to
   maintain po meds) in setting of variceal bleed and INR elevation.  (C)
   Encephalopathy: on lactulose and stable, responsive to commands today.
   (D) Synthetic function: INR and TB improving. Transaminitides stable.
   (E)  Cre stable and still able to make ample urine. No evidence of HRS
   at this time. (F) Varices (grade I esophageal varices s/p banding and
   portal gastropathy): will touch base with Liver re nadolol.
   # Respiratory failure:  likely related to ascites and vol overload.
   Improving respiratory parameters and more responsive. Attempt PS trial
   and possibly extubation today.
   # Leukocytosis:  Peritoneal fluid with Serratia, on CTX. Now BCx
   positive for GPC. Consider vancomycin. VS stable. Minitoring cultures
   from PICC with low threshold to remove.
   # Macrocytic anemia: HCT stable at 23 s/p pRBC on [**2140-6-21**]. Curently on
   folate supplementation (h/o etoh).  No evidence of Gi on EGD and absent
   hemolytic patters. Continue PPI and monitor HCT. HCT>21 goal.
   # FEN: blood products for resuscitation, replete electrolytes prn, tube
   feeds
   # Prophylaxis: pneumoboots, IV PPI, lactulose
   # Access: pIV, PICC, A line placed
   # Code: full
   # Communication: [**Name (NI) **] father [**Name (NI) **] [**Name (NI) **] [**Name (NI) 2381**]
   - home [**Telephone/Fax (1) 5730**], cell [**Telephone/Fax (1) 5731**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2140-6-28**] 02:22 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-6-19**] 12:08 AM
   PICC Line - [**2140-6-20**] 10:42 AM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-06-29 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2140-6-28**] 07:18 PM
 URINE CULTURE - At [**2140-6-29**] 01:03 AM
 FEVER - 101.8
F - [**2140-6-28**] 11:00 PM
   - spiked to 101: bcx (picc and venipuct), ucx, c diff
   - wet lungs, and secretions; did not extubate
   - lasix gtt d/c
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-6-28**] 10:00 AM
   Vancomycin - [**2140-6-28**] 08:09 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-6-28**] 09:00 PM
   Fentanyl - [**2140-6-29**] 04:22 AM
   Midazolam (Versed) - [**2140-6-29**] 06:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-29**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.4
C (97.6
   HR: 94 (91 - 122) bpm
   BP: 110/55(73) {90/42(58) - 151/85(108)} mmHg
   RR: 11 (11 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.5 kg (admission): 98.2 kg
   Height: 69 Inch
             Total In:
                                                                  3,144 mL
                                                                    488 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    413 mL
   IVF:
                                                                    924 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  3,470 mL
                                                                    920 mL
   Urine:
                                                                  2,470 mL
                                                                    920 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                   -326 mL
                                                                   -432 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 600 (452 - 806) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.54/38/78.[**Numeric Identifier 274**]/31/8
   Ve: 14 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General: chronically ill appearing, tremulous, jaundiced, slow to
   respond to questions, intubated
   HEENT: icteric sclera, dry MM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, 2/6 systolic murmur
   throughout the precordium
   Abdomen: distended, diffusely tender to palpation, +fluid wave, no
   hepatosplenomegaly
   Rectal: light brown guaiac positive stool per ED
   Ext: 3+ LE edema with signs of chronic venous stasis bilaterally,
   bilateral dopplerable DP pulses
   Neuro: A+O x 2 (name, hospital in [**Location (un) 168**]), +asterixis
   Labs / Radiology
   155 K/uL
   7.4 g/dL
   126 mg/dL
   1.3 mg/dL
   31 mEq/L
   3.1 mEq/L
   54 mg/dL
   106 mEq/L
   144 mEq/L
   22.4 %
   16.4 K/uL
        [image002.jpg]
                             [**2140-6-26**]  04:47 PM
                             [**2140-6-26**]  04:58 PM
                             [**2140-6-27**]  02:52 AM
                             [**2140-6-27**]  04:36 PM
                             [**2140-6-27**]  05:02 PM
                             [**2140-6-28**]  04:00 AM
                             [**2140-6-28**]  04:21 AM
                             [**2140-6-28**]  06:58 PM
                             [**2140-6-29**]  03:36 AM
                             [**2140-6-29**]  04:00 AM
   WBC
   11.8
   12.1
   14.1
   16.4
   Hct
   23.8
   23.7
   22.0
   23.5
   22.4
   Plt
   112
   119
   122
   155
   Cr
   1.3
   1.3
   1.3
   1.2
   1.3
   TCO2
   37
   31
   35
   34
   Glucose
   114
   124
   109
   120
   126
   Other labs: PT / PTT / INR:31.2/63.6/3.2, CK / CKMB / Troponin-T:867//,
   ALT / AST:29/104, Alk Phos / T Bili:124/8.1, Differential-Neuts:83.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Fibrinogen:114 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:2.3 g/dL, LDH:311 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   This is a 38 year old man with presumed EtOH cirrhosis who presents
   after being found down at home with altered mental status and SBP.
   #Fever. Wbc also trending up, 16.4 today. Being treated with
   ceftriaxone for SBP with peritoneal fluid growing pansensitive
   serratia. BCx x 1 [**6-25**] shows coag neg staph, likely contaminant,
   although currently being covered with vancomycin. Increased secretions
   yesterday. Fever to 101.8, pancultured
   - needs sputum culture today
   - f/u cultures
   .
   # Respiratory failure:  Likely related to ascites and vol overload,
   also with likely aspiration on admission. Improving respiratory
   parameters and more responsive, however still appears fluid overloaded
   on exam, increased secretions.  RSBI 51 today.
   - lasix gtt d/c
d yesterday
   - consider extubation today
   # Cirrhosis: Thought likely to be [**3-21**] alcohol. EGD on admission shows
   grade I varices and portal gastropathy.  T. - continue lactulose
   # Leukocytosis:  Peritoneal fluid with Serratia, on CTX. Now BCx
   positive for GPC. Consider vancomycin. VS stable. Minitoring cultures
   from PICC with low threshold to remove.
   # Macrocytic anemia: HCT 22.4 from 23 s/p pRBC on [**2140-6-21**]. Curently on
   folate supplementation (h/o EtOH).
   - PPI
   - [**Hospital1 **] crits, transfuse for Crit < 21
   # FEN: blood products for resuscitation, replete electrolytes prn, tube
   feeds
   # Prophylaxis: pneumoboots, IV PPI, lactulose
   # Access: pIV, PICC, A line placed
   # Code: full
   # Communication: [**Name (NI) **] father [**Name (NI) **] [**Name (NI) **] [**Name (NI) 2381**]
   - home [**Telephone/Fax (1) 5730**], cell [**Telephone/Fax (1) 5731**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2140-6-29**] 12:06 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-6-19**] 12:08 AM
   PICC Line - [**2140-6-20**] 10:42 AM
   18 Gauge - [**2140-6-28**] 07:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-06-30 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Para -> Negative for SBP
   - HCP is Mother not Father.
   - Extubated succesfully
   - PM vanc trough 36, although possibly drawn during PM vanco infusion.
   AM vanco held with order for repeat vanc level in AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-6-28**] 10:00 AM
   Vancomycin - [**2140-6-29**] 09:39 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-6-29**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-30**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 75 (67 - 109) bpm
   BP: 115/57(74) {100/41(59) - 127/71(88)} mmHg
   RR: 16 (15 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.5 kg (admission): 98.2 kg
   Height: 69 Inch
             Total In:
                                                                  2,071 mL
                                                                    460 mL
   PO:
                                                                    860 mL
                                                                    340 mL
   TF:
                                                                    511 mL
   IVF:
                                                                    700 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  2,190 mL
                                                                    630 mL
   Urine:
                                                                  2,190 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -119 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 532 (532 - 655) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///30/
   Ve: 13 L/min
   Physical Examination
   General: chronically ill appearing,  jaundiced, awake, alert,
   intubated
   HEENT: icteric sclera, dry MM
   Neck: supple
   Lungs: Crackles L base
   CV: Regular rate and rhythm, normal S1 + S2, 2/6 systolic murmur
   throughout the precordium
   Abdomen: markedly distended
   Ext: 3+ LE edema with signs of chronic venous stasis bilaterally
   Neuro: Alert and interactive, follows commands
   Labs / Radiology
   236 K/uL
   7.9 g/dL
   107 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.8 mEq/L
   55 mg/dL
   107 mEq/L
   143 mEq/L
   23.6 %
   18.1 K/uL
        [image002.jpg]
                             [**2140-6-27**]  02:52 AM
                             [**2140-6-27**]  04:36 PM
                             [**2140-6-27**]  05:02 PM
                             [**2140-6-28**]  04:00 AM
                             [**2140-6-28**]  04:21 AM
                             [**2140-6-28**]  06:58 PM
                             [**2140-6-29**]  03:36 AM
                             [**2140-6-29**]  04:00 AM
                             [**2140-6-29**]  07:20 PM
                             [**2140-6-30**]  02:40 AM
   WBC
   12.1
   14.1
   16.4
   18.1
   Hct
   23.7
   22.0
   23.5
   22.4
   23.9
   23.6
   Plt
   119
   122
   155
   236
   Cr
   1.3
   1.3
   1.2
   1.3
   1.2
   1.0
   TCO2
   31
   35
   34
   Glucose
   124
   109
   120
   126
   129
   107
   Other labs: PT / PTT / INR:33.3/61.7/3.5, CK / CKMB / Troponin-T:867//,
   ALT / AST:27/101, Alk Phos / T Bili:79/8.9, Differential-Neuts:83.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Fibrinogen:114 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:2.3 g/dL, LDH:311 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   This is a 38 year old man with presumed EtOH cirrhosis who presents
   after being found down at home with altered mental status and SBP.
   #Fever. Wbc also trending up, 16.4 today. Being treated with
   ceftriaxone for SBP with peritoneal fluid growing pansensitive
   serratia, repeat culture [**6-20**] no growth but positive SBP by cell counts.
   BCx [**6-25**] (anaerobic and aerobic cultures x 1) shows coag neg staph,
   currently being covered with vancomycin. Increased secretions
   yesterday. Fever to 101.8 overnight, pancultured
   - f/u cultures
   - continue ceftriaxone and vancomycin
   - repeat diagnostic para
   - PICC d/c
   # Respiratory failure:  Likely related to ascites and vol overload,
   also with likely aspiration on admission. Improving respiratory
   parameters and more responsive.  RSBI 51 today.
   - likely extubation today
   - continue diuresis c/ lasix bolus tid
   # Alcoholic cirrhosis with ascitis c/b SBP, c/b encephalopathy c/b
   portal gastropathy: (A) SBP: on ceftriaxone. (B) ascitis: overall still
   positive fluid balance, with aprx 100 cc/hr on lasix ggt. Problem is
   the high intake level. Will try to consolidate intake. Considering
   adding a second diuretic but furosemide appears effective currently.
   Acetazolamide added for metabolic acidosis. Will touch base with Liver
   re NG tube (in order to maintain po meds) in setting of variceal bleed
   and INR elevation.  (C) Encephalopathy: on lactulose and stable,
   responsive to commands today. (D) Synthetic function: INR and TB
   improving. Transaminitides stable. (E)  Cre stable and still able to
   make ample urine. No evidence of HRS at this time. (F) Varices (grade I
   esophageal varices s/p banding and portal gastropathy): will touch base
   with Liver re nadolol
   # Macrocytic anemia: Likely slow ooze from portal gastropathy. Stools
   guaiac positive. HCT 22.4 from 23 s/p pRBC on [**2140-6-21**]. Curently on
   folate supplementation (h/o EtOH).
   - PPI
   - [**Hospital1 **] crits, transfuse for Crit < 21
   # FEN: blood products for resuscitation, replete electrolytes prn, tube
   feeds
   # Prophylaxis: pneumoboots, IV PPI, lactulose
   # Access: pIV, A line placed
   # Code: full
   # Communication: [**Name (NI) **] father [**Name (NI) **] [**Name (NI) **] [**Name (NI) 2381**]
   - home [**Telephone/Fax (1) 5730**], cell [**Telephone/Fax (1) 5731**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-6-19**] 12:08 AM
   18 Gauge - [**2140-6-28**] 07:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: